US07223833B1
C. N-[(N-Boc)(N-methyl)-2-aminoethyl]-glycine methyl ester
To a suspension of the N-[(N-Boc)(N-methyl)(1-thiocarbonyl)-2-aminoethyl]-glycine methyl ester (2.67 g, 0.0097 mol) and NiCl26H2O (18.39 g, 0.077 mol) in THF:MeOH 1:1 (100 ml) at −20° C., NaBH4 (8.78 g, 0.23 mol) was slowly added so that the temperature did not exceed 0° C. After addition of the NaBH4, the reaction was allowed to go to room temperature. The reaction mixture was filtered several times through celite and evaporated to dryness. The product was isolated by column chromatography on silica gel with CH2CL2/MeOH 90:10 eluent. The yield of the title compound was 60%.

reactant | N-[(N-Boc)(N-methyl)(1-thiocarbonyl)-2-aminoethyl]-glycine methyl ester | 0.0097 mol, 2.67 g | COC(CNC(CN(C)C(=O)OC(C)(C)C)=C=S)=O | C12H20N2O4S
reactant | NaBH4 | 0.23 mol, 8.78 g | [BH4-].[Na+]
solvent | THF MeOH | 100 ml | C1CCOC1.CO
product | N-[(N-Boc)(N-methyl)-2-aminoethyl]-glycine methyl ester | COC(CNCCN(C)C(=O)OC(C)(C)C)=O | C11H22N2O4
